US07291733B2
The morpholine salt of 2-mercapto-6-oxo-4-propyl-1,6-dihydro-pyridine-3-carbonitrile (see above) was reacted with 2-bromoacetonitrile as described above for 2-bromoacetamide to provide 2-cyanomethylsulfanyl-6-oxo-4-propyl-1,6-dihydro-pyridine-3-carbonitrile. This nitrile (19.02 g, 81.53 mmol) and N-phenyltrifluoromethanesulfonimide (29.59 g, 82.00 mmol) were dissolved in 100 mL of dry dioxane. Diisopropylethylamine (19.3 mL, 135 mmol) was added and the mixture was stirred at room temperature under argon for 4 h. The solvent was concentrated. The residue was dissolved in EtOAc and ether and the resulting solution was filtered through a pad of silica gel which was washed with ether. The filtrate was concentrated and the resulting yellow solid was collected by filtration and dried under vacuum to provide trifluoro-methanesulfonic acid 5-cyano-6-cyanomethylsulfanyl-4-propyl-pyridin-2-yl ester (18.45 g, 62%).

reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | 2-mercapto-6-oxo-4-propyl-1,6-dihydro-pyridine-3-carbonitrile | SC=1NC(C=C(C1C#N)CCC)=O | C9H10N2OS
reactant | 2-bromoacetonitrile | BrCC#N | C2H2BrN
reactant | 2-bromoacetamide | BrCC(=O)N | C2H4BrNO
product | 2-cyanomethylsulfanyl-6-oxo-4-propyl-1,6-dihydro-pyridine-3-carbonitrile | C(#N)CSC=1NC(C=C(C1C#N)CCC)=O | C11H11N3OS
